US04368201
A. 5,6,7,8-Tetrahydro-3-nitro-2-naphthol
To a solution of 5,6,7,8-tetrahydro-2-naphthol (44 g) in 300 ml of acetic acid was added dropwise fuming nitric acid (12 ml in 12 ml of acetic acid) over a period of 30 minutes. The reaction mixture was then stirred for an additional 5 hours at room temperature. After evaporation of the solvent, the crude product was purified by column chromatography (silica gel) to give 16 g of pure product, m.p. 88°-89° C.

reactant | 5,6,7,8-tetrahydro-2-naphthol | 44 g | C1=C(C=CC=2CCCCC12)O | C10H12O
reactant | nitric acid | 12 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 5,6,7,8-Tetrahydro-3-nitro-2-naphthol | 16 g | [N+](=O)([O-])C=1C(=CC=2CCCCC2C1)O | C10H11NO3
